US07138420B2
To a solution of 4-fluoro-3-nitro aniline (1.41 g, 9.0 mmol) in THF (50 mL) was added cyclohexanecarbonyl chloride (1.46 g, 9.6 mmol) and pyridine (0.97 mL, 12 mmol), and the mixture stirred for 22 h at room temperature. Ethyl acetate (100 mL) was added, and the solution was washed in turn with 1M HCl (50 mL) and saturated sodium bicarbonate (50 mL). The organic layer was dried over magnesium sulfate and evaporated. The residue was purified by flash chromatography, eluting with hexane/ethyl acetate (7:3) to give cyclohexanecarboxylic acid (4-fluoro-3-nitro-phenyl)amide (1.35 g, 56%).

reactant | 4-fluoro-3-nitro aniline | 9.0 mmol, 1.41 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | cyclohexanecarbonyl chloride | 9.6 mmol, 1.46 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | pyridine | 12 mmol, 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | cyclohexanecarboxylic acid (4-fluoro-3-nitro-phenyl)amide | 1.35 g, 56% | FC1=C(C=C(C=C1)NC(=O)C1CCCCC1)[N+](=O)[O-] | C13H15FN2O3
